US04460596
4.0 g of N-benzoyl-N-[(2-thienylcarbonyl)methyl]amine, one g of 50% sodium hydride and 2.7 g of ethyl bromoacetate are treated in the same manner as described in Preparation 1-(4). 3.4 g of ethyl 3-benzoylamino-3-(2-thienylcarbonyl)propionate are obtained.

reactant | N-benzoyl-N-[(2-thienylcarbonyl)methyl]amine | 4.0 g | C(C1=CC=CC=C1)(=O)NCC(=O)C=1SC=CC1 | C13H11NO2S
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl bromoacetate | 2.7 g | BrCC(=O)OCC | C4H7BrO2
product | ethyl 3-benzoylamino-3-(2-thienylcarbonyl)propionate | 3.4 g, Yield: 63% | C(C1=CC=CC=C1)(=O)NC(CC(=O)OCC)C(=O)C=1SC=CC1 | C17H17NO4S
